US04118500
In the same manner as indicated in Example 6 there are electrolyzed 19.6 g of N-acetylpyrrolidine and 55.6 of methanol in the presence of 0.28 g of tetramethylammonium tetrafluoroborate as conducting salt. After throughput of 2.0 Faraday per mol of N-acetylpyrrolidine the current is switched off. The calculated mean cell voltage is 32.7 volts. Work-up of the electrolysis solution gives 19.9 g of 1-acetyl-2-methoxypyrrolidine (boiling point 53° C./0.1 mbar; nD25 = 1.4674), which corresponds to a product yield of 80.0% and a current efficiency of 80.0%.

reactant | N-acetylpyrrolidine | 19.6 g | C(C)(=O)N1CCCC1 | C6H11NO
reactant | methanol | CO | CH4O
catalyst | tetramethylammonium tetrafluoroborate | 0.28 g | F[B-](F)(F)F.C[N+](C)(C)C
product | 1-acetyl-2-methoxypyrrolidine | 19.9 g | C(C)(=O)N1C(CCC1)OC | C7H13NO2
